US04782050
A. 1-fluoroethvlbenzimidazole
A solution of 3.24 g (0.02 mole) of 1-hydroxyethylbenzimidazole in 50 ml of methylene chloride was added to a solution of 2.44 ml (0.02 mole) of diethylaminosulfur trifluoride in 50 ml of methylene chloride cooled to -78° C. and under a nitrogen atmosphere. The reaction mixture was allowed to warm slowly to room temperature where it was stirred for 4 hours. The mixture was poured into water, the pH adjusted to 8 with aqueous sodium hydroxide solution and the organic layer separated and dried. Removal of the solvent gave 1.25 g of a brown oil which was chromatographed on 100 g of silica gel using 5% methanol chloroform as the eluent, 845 mg.

reactant | 1-hydroxyethylbenzimidazole | 0.02 mole, 3.24 g | OC(C)C=1NC2=C(N1)C=CC=C2 | C9H10N2O
reactant | diethylaminosulfur trifluoride | 0.02 mole, 2.44 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-fluoroethvlbenzimidazole | 1.25 g | FC(C)C=1NC2=C(N1)C=CC=C2 | C9H9FN2
